US06503949B1
To a well stirred solution of 3-(4-formylbenzoylamino)propionic acid ethyl ester (13.8 g, 55.3 mmol) in ethanol (150 mL) was added a solution of 4-cyclohexylaniline (9.70 g, 55.3 mmol) in ethanol (75 mL). The mixture was heated to reflux for 30 minutes, and then acetic acid (50 mL) and sodium cyanoborohydride (3.50 g, 55.5 mmol) were added. After 10 minutes of additional heating, the mixture was cooled on an ice-bath. The solid precipitate was collected by filtration, washed several times with cold water and dried in a vacuum oven overnight to afford 18.16 g (80%) of 3-{4-[(4-cyclohexylphenylamino)methyl]benzoylamino}propionic acid ethyl ester.

reactant | 3-(4-formylbenzoylamino)propionic acid ethyl ester | 55.3 mmol, 13.8 g | C(C)OC(CCNC(C1=CC=C(C=C1)C=O)=O)=O | C13H15NO4
reactant | 4-cyclohexylaniline | 55.3 mmol, 9.70 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 55.5 mmol, 3.50 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3-{4-[(4-cyclohexylphenylamino)methyl]benzoylamino}propionic acid ethyl ester | 18.16 g, 80% | C(C)OC(CCNC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C1CCCCC1)=O)=O | C25H32N2O3
